US06949571B2
3-(2-Chlorophenyl)-5-cyclohexyl-1-phenyl-1,2-dihydropyridin-2-one
30 mg of 5-bromo-3-(2-chlorophenyl)-1-phenyl-1,2-dihydropyridin-2-one synthesized from 5-bromo-1-phenyl-3-iodo-1,2-dihydropyridin-2-one and 2-chlorophenyl boronic acid in accordance with the method of Referential Example 3 was dissolved in 20 ml of tetrahydrofuran, followed by adding 1 mg of [1,3-bis(diphenylphosphino)propane]nickel(II) chloride. Under stirring in nitrogen atmosphere, 0.1 ml of cyclohexyl magnesium chloride (2.0M ether solution) was added dropwise thereinto. After stirring at room temperature in nitrogen atmosphere overnight, the mixture was heated under reflux for 1 hour. After cooling to room temperature, a saturated aqueous solution of ammonium chloride was added thereto, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (chloroform/methanol system), to give 6 mg of the title compound.

reactant | 5-bromo-3-(2-chlorophenyl)-1-phenyl-1,2-dihydropyridin-2-one | 30 mg | BrC=1C=C(C(N(C1)C1=CC=CC=C1)=O)C1=C(C=CC=C1)Cl | C17H11BrClNO
reactant | 5-bromo-1-phenyl-3-iodo-1,2-dihydropyridin-2-one | BrC=1C=C(C(N(C1)C1=CC=CC=C1)=O)I | C11H7BrINO
reactant | 2-chlorophenyl boronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | cyclohexyl magnesium chloride | 2.0M, 0.1 ml | C1(CCCCC1)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | [1,3-bis(diphenylphosphino)propane]nickel(II) chloride | 1 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 3-(2-Chlorophenyl)-5-cyclohexyl-1-phenyl-1,2-dihydropyridin-2-one | 6 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)C1CCCCC1)C1=CC=CC=C1)=O | C23H22ClNO
